US05382582
A solution of 0.6 g of guanidine hydrochloride in 25 ml of absolute ethanol was added to a solution of sodium ethoxide prepared by reacting 0.26 g of sodium metal with 25 ml of absolute ethanol. After 15 minutes, the NaCl precipitate was filtered off, and 1.42 g of 4-[[(2-amino-3-cyano-6 deuteropyrazin-5-yl)methyl]methylamino]benzoic acid was added to the filtrate. The mixture was refluxed for 2 hours and then concentrated to a small volume. The residue was dissolved in 200 ml of water and filtered to yield a clear solution. The solution was acidified to pH 4-5 with glacial acetic acid, and the precipitate formed upon acidification was collected. The precipitate was sequentially washed with H2O, ethanol and ether, and was dried in a desiccator. A yield of 1.6 g of 4-[[4-amino-7-deuteropteridine-6-yl)-methyl]methylamino]benzoic acid was obtained as yellow solid. This compound had a melting point greater than 300° C., and its IR spectrum showed absorptions at 3460-3200, 2940, 1670, 1615, and 1595 cm1, corresponding to NH2, CH, COOH, C=C, and CN signals. The nmr spectrum showed signals at 3.30 (s, Me), 4.90 (s, CH2), 6.80 (d,3'-and 5'-H, J=9Hz), 7.70 (d,2'-and 4'-H, J=9Hz) and 7.35 (b,NH2) ppm. The compound had a retention time of 9.75 min upon HPLC analysis. HPLC analysis was performed using a C18 column. The column was eluted with 27% MeOH in a 0.1 M Tris buffer of pH 6.7 at a flow rate of 1.5 ml/minute. The FAB mass spectrum showed a protonated molecular ion peak at m/z 327. This peak confirmed that the molecular weight of this compound was 326.

reactant | guanidine hydrochloride | 0.6 g | Cl.NC(=N)N
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.26 g | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
